US04999352
13.8 ml (20 mmol) of a 1.45 molar solution of n-butyllithium in hexane were added dropwise to a solution of 3.85 g (20 mmol) of 1-(3-chlorobenzyl)-imidazole in 40 ml of absolute THF at -70° C. After stirring for 30 minutes at -70° C., a solution of 4.39 g of 74% purity (20 mmol) 2-allyl-5-norbornen-2-aldehyde in 30 ml of absolute THF was added dropwise at about -70° C. over about 12 minutes. The further procedure was subsequently carried out as described in Example 2. The residue (9.0 g) remaining from the organic component after removing the solvent by distillation was dissolved in diisopropyl ether/hexane 2:1, whereupon crystalline product precipitated. After isolation using 20 ml of acetonitrile, this was boiled briefly, filtered off under suction after cooling the mixture, and washed with acetonitrile. 2.70 g (≅38% yield) of pure 1-(2-allyl-5-norbornen-2-yl)-2-(3-chlorophenyl)-2-(1-imidazolyl)-ethanol were obtained in the form of a mixture, comprising 2 diastereomers, of melting point 134°-135° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-(3-chlorobenzyl)-imidazole | 20 mmol, 3.85 g | ClC=1C=C(CN2C=NC=C2)C=CC1 | C10H9ClN2
reactant | 2-allyl-5-norbornen-2-aldehyde | 20 mmol | C(C=C)C1(C2C=CC(C1)C2)C=O | C11H14O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(2-allyl-5-norbornen-2-yl)-2-(3-chlorophenyl)-2-(1-imidazolyl)-ethanol | 2.70 g, 38% yield | C(C=C)C1(C2C=CC(C1)C2)C(C(N2C=NC=C2)C2=CC(=CC=C2)Cl)O | C21H23ClN2O
